US05318966
A mixture of 0.30 g (0.66 mmol) of rac-cis-N-[6-(1,2,3a,4,5,9b-hexahydro-6-hydroxy-3H-benzo[e]indol-3-yl)-hexyl]phthalimide hydrochloride, 0.06 ml (0.66 mmol) of dimethylcarbamoyl chloride, 0.19 ml (1.32 mmol) of triethylamine and 0.08 g (0.66 mmol) of 4-dimethylaminopyridine in 10 ml of toluene was boiled under reflux for 24 hours and then poured into saturated aqueous sodium hydrogen carbonate solution. The mixture was extracted with methylene chloride, the extracts were dried with sodium sulphate and the solvent was distilled off in a vacuum. The residue was chromatographed over silica gel with methylene chloride/methanol (20:1) and dissolved in methylene chloride. The solution was treated with ethanolic HCl and concentrated. The residue was dissolved in methylene chloride, ether was added thereto and the solvent was distilled off. There was obtained 0.12 g (32%) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-(6-phthalimidohexyl)-1H-benzo[e]indol-6-yl dimethylcarbamate hydrochloride as a foam.

reactant | rac-cis-N-[6-(1,2,3a,4,5,9b-hexahydro-6-hydroxy-3H-benzo[e]indol-3-yl)-hexyl]phthalimide hydrochloride | 0.66 mmol, 0.30 g | Cl.OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCCN2C(C=1C(C2=O)=CC=CC1)=O
reactant | dimethylcarbamoyl chloride | 0.66 mmol, 0.06 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 1.32 mmol, 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.66 mmol, 0.08 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(6-phthalimidohexyl)-1H-benzo[e]indol-6-yl dimethylcarbamate hydrochloride | 0.12 g, 32% | Cl.CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCCN2C(C=1C(C2=O)=CC=CC1)=O)=O)C | InChI=1S/C29H35N3O4.ClH/c1-30(2)29(35)36-26-13-9-12-20-21-16-19-31(25(21)15-14-22(20)26)17-7-3-4-8-18-32-27(33)23-10-5-6-11-24(23)28(32)34;/h5-6,9-13,21,25H,3-4,7-8,14-19H2,1-2H3;1H/t21-,25+;/m1./s1
